US06156758
3-Amino-6-chloro-5-hydrazino-pyrazine-2-carboxylic acid methyl ester (51).
Methyl 3-amino-5,6-dichloro-2-pyrazinecarboxylate (1.10 g, 5 mmol) was dissolved in 20 mL of tert-butyl alcohol and DMF (v/v; 1:1). Anhydrous hydrazine (0.18 mL, 5.5 mmol) and N,N'-diisopropylethyl amine (4.5 mL, 25 mmol) were then added sequentially at 25° C. The resulting mixture was stirred at 25° C. for 12 h. The reaction mixture was then partitioned between EtOAc (100 mL) and sat. NaCl (aq) (100 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo to give a brown solid residue. This residue was used in the next-step reaction without further purification: TLC (Rf =0.53; 10% MeOH/CH2Cl2).

reactant | Methyl 3-amino-5,6-dichloro-2-pyrazinecarboxylate | 5 mmol, 1.10 g | NC=1C(=NC(=C(N1)Cl)Cl)C(=O)OC | C6H5Cl2N3O2
reactant | hydrazine | 5.5 mmol, 0.18 mL | NN | H4N2
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | tert-butyl alcohol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Amino-6-chloro-5-hydrazino-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1N)NN)Cl | C6H8ClN5O2
